US08580404B2
Step 1: Synthesis of 2-aminotriphenylene
3.1 g (11.3 mmol) of a mixture of 1 and 2-nitrotriphenylene (synthesized according to J. Chem. Soc., 1955, 4482) in about 100 mL of ethanol, 600 mg (0.57 mmol) of Pd/C (10% on activated carbon), and 2.3 g (45.2 mmol) of hydrazine monhydride were charged in a 250 mL round bottle flask. The reaction mixture was heated up to reflex under nitrogen for 2 hours. The reaction mixture was then filtered and the filtrate was concentrated and passed through a silica gel column using 25% ethyl acetate in hexanes as elute. 1 and 2 aminotriphenyl were separated and confirmed by MS and NMR. This reaction yield was 100%.

reactant | 2-nitrotriphenylene | [N+](=O)([O-])C1=CC=2C3=CC=CC=C3C3=CC=CC=C3C2C=C1 | C18H11NO2
reactant | hydrazine | 45.2 mmol, 2.3 g | NN | H4N2
solvent | ethanol | about 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.57 mmol, 600 mg | [Pd] | Pd
product | 2-aminotriphenylene | yield was 100% | NC1=CC=2C3=CC=CC=C3C3=CC=CC=C3C2C=C1 | C18H13N
